US06759554B2
N-(4-Methylphenyl)-trans-1,2-cyclohexanediamine
An oven-dried resealable Schlenk tube was charged with CuI (190 mg, 0.998 mmol), K3PO4 (2.10 g, 9.89 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (0.60 mL, 5.00 mmol), 4-bromotoluene (0.70 mL, 5.69 mmol) and dioxane (3.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 70 h. The resulting dark brown suspension was cooled to room temperature and filtered through a 2×1 cm pad of Celite eluting with 50 mL of dichloromethane. The black filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; dichloromethane saturated with aq NH3—methanol 50:1; 15 mL fractions). Fractions 9-11 provided 650 mg (64% yield) of the product as a brown solid. 1H NMR (400 MHz, CDCl3): δ 7.00−6.95 (m, 2H), 6.62−6.57 (m, 2H), 3.30 (br s, 1H), 2.96−2.86 (br m, 1H), 2.49 (td, J=10.4, 3.6, 1H), 2.23 (s, 3H), 2.17−2.08 (m, 1H), 2.02−1.94 (m, 1H), 1.79−1.66 (m, 2H), 1.44 (br s, 2H), 1.38−1.17 (m, 3H), 1.07−0.95 (m, 1H). 13C NMR (100 MHz, CDCl3) δ 145.9, 129.7, 126.6, 113.9, 60.5, 56.1, 35.2, 32.4, 25.3, 25.0, 20.3.

reactant | K3PO4 | 9.89 mmol, 2.10 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 5.00 mmol, 0.60 mL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 4-bromotoluene | 5.69 mmol, 0.70 mL | BrC1=CC=C(C=C1)C | C7H7Br
catalyst | CuI | 0.998 mmol, 190 mg | [Cu]I
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | N-(4-Methylphenyl)-trans-1,2-cyclohexanediamine | 650 mg, 64% yield | CC1=CC=C(C=C1)N[C@H]1[C@@H](CCCC1)N | C13H20N2
